US07723345B2
6.39. Synthesis of (S)-2-Amino-3-(4-(2-amino-6-(benzylthio)pyrimidin-4-yl)phenyl)propanoic acid
4-(Benzylthio)-6-chloropyrimidin-2-amine (0.1 g, 0.397 mmol), L-p-boronophenylalanine (0.1 g, 0.477 mmol), Pd(PPh3)2Cl2 (17 mg, 0.024 mmol), Na2CO3 (93 mg, 0.874 mmol), MeCN (2.5 ml) and water (2.5 ml) were heated at 150° C. for 5 minutes in a microwave. The mixture was concentrated and purified via prep HPLC to give 0.42 g of the title compound. M+1=381; 1H NMR (CD3OD) δ 7.8 (d, 2H), 7.37 (t, 4H), 7.23 (m, 2H), 7.16 (m, 1H), 6.98 (s, 1H), 4.43 (s, 2H), 4.20 (t, 1H), 3.29 (m, 1H), 3.13 (M, 1H).

reactant | 4-(Benzylthio)-6-chloropyrimidin-2-amine | 0.397 mmol, 0.1 g | C(C1=CC=CC=C1)SC1=NC(=NC(=C1)Cl)N | C11H10ClN3S
reactant | Na2CO3 | 0.874 mmol, 93 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | MeCN | 2.5 ml | CC#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 0.024 mmol, 17 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 2.5 ml | O | H2O
product | (S)-2-Amino-3-(4-(2-amino-6-(benzylthio)pyrimidin-4-yl)phenyl)propanoic acid | 0.42 g | N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=NC(=C1)SCC1=CC=CC=C1)N | C20H20N4O2S
